US09447078B2
Cyclohexylmethanol (0.50 mL, 4.06 mmol) was added to a suspension of NaH (0.080 g, 3.33 mmol) in anhydrous THF (5 mL). Then cyclohexylmethyl 4-bromothiophene-2-carboxylate (0.56 g, 1.847 mmol) was added to the reaction mixture followed by CuI (0.34 g, 1.79 mmol). The reaction mixture was stirred at room temperature for 12 days then aqueous NH4Cl (25%) was added. Aqueous layer was extracted with EtOAc and combined organic layers were washed with brine, dried over anhydrous MgSO4 and concentrated under reduced pressure. Flash chromatography purification (2%-10% EtOAc—hexanes gradient) gave cyclohexylmethyl 4-(cyclohexylmethoxy)thiophene-2-carboxylate as a colorless oil. Yield (0.17 g, 27%); 1H NMR (400 MHz, CD3OD) δ 7.35 (d, J=1.7 Hz, 1H), 6.75 (d, J=1.7 Hz, 1H), 4.07 (d, J=6.3 Hz, 2H), 3.78 (d, J=6.3 Hz, 2H), 1.65-1.90 (m, 12H), 1.15-1.38 (m, 6H), 1.00-1.15 (m, 4H).

reactant | Cyclohexylmethanol | 4.06 mmol, 0.50 mL | C1(CCCCC1)CO | C7H14O
reactant | NaH | 3.33 mmol, 0.080 g | [H-].[Na+]
reactant | cyclohexylmethyl 4-bromothiophene-2-carboxylate | 1.847 mmol, 0.56 g | BrC=1C=C(SC1)C(=O)OCC1CCCCC1 | C12H15BrO2S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | CuI | 1.79 mmol, 0.34 g | [Cu]I
product | cyclohexylmethyl 4-(cyclohexylmethoxy)thiophene-2-carboxylate | C1(CCCCC1)COC=1C=C(SC1)C(=O)OCC1CCCCC1 | C19H28O3S
